US04536518
(B) 1-(4-Methoxyphenyl)-3,4-dihydro-naphthalene
A solution of 1-hydroxy-1-(4-methoxyphenyl)tetralin (18 g., 0.071 mole) in toluene (250 ml.) was treated with para-toluenesulfonic acid (5 mg.) and the resulting solution stirred at reflux for 16 hours, with complete water removal accomplished by means of a Dean-Stark trap. The reaction mixture was then cooled to room temperature, washed sequentially with 10% aqueous sodium bicarbonate solution (100 ml.), water (100 ml.) and saturated aqueous sodium chloride solution (100 ml.), dried (MgSO4) and evaporated under vacuum to an oil, which was purified by silica gel chromatography (elution with a hexane-toluene gradient) to give 12 g. of the named compound (67% yield, oil).

reactant | 1-hydroxy-1-(4-methoxyphenyl)tetralin | 0.071 mole, 18 g | OC1(CCCC2=CC=CC=C12)C1=CC=C(C=C1)OC | C17H18O2
reactant | para-toluenesulfonic acid | 5 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(4-Methoxyphenyl)-3,4-dihydro-naphthalene | 67% yield | COC1=CC=C(C=C1)C1=CCCC2=CC=CC=C12 | C17H16O
